US04736057
A stirred suspension of (cis-2-phenylcyclohexyl)acetic acid (15 g.) in dry toluene (100 ml.),cooled at -10° C. under argon, was treated with a 3.46 M solution of sodium bis(2-methoxyethoxy)aluminium hydride in toluene (25 ml.). The mixture was stirred overnight, diluted with ice/water (50 ml.), acidified with concentrated hydrochloric acid to pH 2. and extracted with ethyl acetate (3×150 ml.). The extracts were combined, washed with water (3×100 ml.), dried (MgSO4) and the solvent removed by evaporation to give 2-(cis-2-phenylcyclohexyl)ethanol (10.3 g.), which solidified on standing to give material of m.p. 48°-50° C.; NMR (CDCl3): 1.08-2.0 (12H,m), 2.81 (lH, d of t, Jaa=11 Hz, Jae=4 Hz, Jae=4 Hz, indicating cis-relative stereochemistry about the cyclohexane ring), 3.21 (1H,m), 3.37 (1H, m), 7.09 (3H,m), and 7.22 (2H,m).

reactant | (cis-2-phenylcyclohexyl)acetic acid | 15 g | C1(=CC=CC=C1)[C@@H]1[C@@H](CCCC1)CC(=O)O | C14H18O2
reactant | sodium bis(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(cis-2-phenylcyclohexyl)ethanol | 10.3 g | C1(=CC=CC=C1)[C@@H]1[C@@H](CCCC1)CCO | C14H20O
